US04560693
Analogous reaction of 2,2-difluoro-5H-[1,3]-dioxolo[4,5-f]benzimidazole-6-thiol with 2-chloromethyl-4-methoxy-3,5-dimethylpyridine gives 2,2-difluoro-6-[(4-methoxy-3,5-dimethyl-2-pyridyl)methylthio]-5H-[1,3]-dioxolo[4,5-f]benzimidazole, of m.p. 148°-149° C. (from acetonitrile), in 86% yield.

reactant | 2,2-difluoro-5H-[1,3]-dioxolo[4,5-f]benzimidazole-6-thiol | FC1(OC=2C(=CC3=C(N=C(N3)S)C2)O1)F | C8H4F2N2O2S
reactant | 2-chloromethyl-4-methoxy-3,5-dimethylpyridine | ClCC1=NC=C(C(=C1C)OC)C | C9H12ClNO
product | 2,2-difluoro-6-[(4-methoxy-3,5-dimethyl-2-pyridyl)methylthio]-5H-[1,3]-dioxolo[4,5-f]benzimidazole | 86% yield | FC1(OC=2C(=CC3=C(N=C(N3)SCC3=NC=C(C(=C3C)OC)C)C2)O1)F | C17H15F2N3O3S
